US05541228
cis-2-[3-(2-Fluoro-5-methoxyphenyl)prop-2-en-1-yl]-isoindole-1,3-dione:
A cold (0° C.) suspension of NaH (3.88 g, 97 mmol) and 2-fluoro-5-methoxy benzaldehyde (10.0 g, 65 mmol) in THF (400 mL) was treated with an admix of vinyltriphenylphosphonium bromide (31.2 g, 84.5 mmol) and potassium phthalimide (15.65 g, 84.5 mmol) under N2. The reaction was then slowly heated to 45° C. for 1 h, followed by standing at ambient temperature for 18 h. The dark solution was quenched with 5% citric acid (25mL), then diluted with H2O (800 mL). The suspension was extracted with EtOAc (3×), the organics were combined and washed with 5% citric acid (3×), H2O (1×), brine, and dried over K2CO3. The crude oil was flashed through a plug of silica gel (toluene-2%MeOH/toluene) to afford pure material as a cis / trans mix (60/40, based on NMR). The cis compound was isolated by recrystallization from hot ethanol to give the titled cis isomer, 2.08 g, as a white solid, 10%: 1H NMR (300 MHz, CDCl3) δ 3.82 (s, 3H), 4.48 (m, 2H), 5.76 (m, 1H), 6.56 (d, J=12.0 Hz, 1H), 6.70-7.05 (m, 3H), 7.68-7.86 (m, 4H; MS m/e 311; Analysis calc'd for C18H14NO3F 0.12(EtOH): C, 68.95; H, 4.78; N, 4.37; found: C, 69.23; H, 4.92; N, 4.37.

reactant | NaH | 97 mmol, 3.88 g | [H-].[Na+]
reactant | 2-fluoro-5-methoxy benzaldehyde | 65 mmol, 10.0 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | vinyltriphenylphosphonium bromide | 84.5 mmol, 31.2 g | [Br-].C(=C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium phthalimide | 84.5 mmol, 15.65 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | cis-2-[3-(2-Fluoro-5-methoxyphenyl)prop-2-en-1-yl]-isoindole-1,3-dione | FC1=C(C=C(C=C1)OC)\C=C/CN1C(C2=CC=CC=C2C1=O)=O | C18H14FNO3
